US09024018B2
N-(Benzyloxy)-4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide (RR-003)
4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid (0.46 mmol, 100 mg, 1 eq.), O-Benzotriazole-N,N,N′,N′-tetramethyl-uronium-hexafluoro-phosphate (HBTU) (0.55 mmol, 208 mg, 1.2 eq.) and triethylamine (0.55 mmol, 77 μL, 1.2 eq.) were dissolved in THF (30 mL) and DMF (1 mL). The mixture was stirred at room temperature for 1 hour before adding O-benzylhydroxylamine (0.55 mmol, 68 mg, 1.2 eq.) in one portion. After 24 hours of room temperature stirring, the volume of the solution was reduced to 5 mL and poured into ice/water. The formed solid was filtered and washed with water, ethyl acetate and ether, and dried under vacuum. Yield: 72%. δH (DMSO-d6) 11.93 (1H, bs), 8.89 (1H, s), 7.48 (2H, m), 7.40 (3H, m), 5.15 (2H, d, J: 1.84), 4.97 (2H, s), 3.53 (1H, bs).

reactant | 4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxylic acid | 0.46 mmol, 100 mg, 1 eq. | O=C1N2C(N=NN1CC#C)=C(N=C2)C(=O)O | C8H5N5O3
reactant | triethylamine | 0.55 mmol, 77 μL, 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | O-benzylhydroxylamine | 0.55 mmol, 68 mg, 1.2 eq. | C(C1=CC=CC=C1)ON | C7H9NO
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | N-(Benzyloxy)-4-oxo-3-(prop-2-ynyl)-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carboxamide | Yield: 72% | C(C1=CC=CC=C1)ONC(=O)C=1N=CN2C1N=NN(C2=O)CC#C | C15H12N6O3
